US07402581B2
tert-Butyl {2-(4-bromophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylcarbamate (1.16 g, 2.25 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.62 g, 0.68 mmol) and tri-o-tolylphosphine (1.03 g, 3.38 mmol) were mixed together with acetonitrile (3 mL) and DMF (3 mL) under argon. Zinc cyanide (0.16 g, 1.35 mmol) was added and the mixture was stirred at 81° C. for 24h and then concentrated. Ethyl acetate was added to the residue and the slurry was filtered through a micro filter. The solvent was removed by evaporation and the residue purified by flash chromatography (hexane-ether, 10:1). There was obtained 0.43 g, (41%) of tert-butyl {2-(4-cyanophenyl)-4-[(triisopropylsilyl)oxy]butyl}-methylcarbamate as a solid. 1H NMR (300 MHz, CDCl3): 0.9-1.1 (m, 21H), 1.4 (s, 9H), 1.7-1.9 (m, 2H), 2.7 (m, 3H), 3.2-3.6 (m, 5H), 7.3-7.4 (m, 2H), 7.5-7.6 (m, 2H); MS: m/z 361 (M+1)+.

reactant | tert-Butyl {2-(4-bromophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylcarbamate | 2.25 mmol, 1.16 g | BrC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CCO[Si](C(C)C)(C(C)C)C(C)C | C25H44BrNO3Si
reactant | tri-o-tolylphosphine | 3.38 mmol, 1.03 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.68 mmol, 0.62 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Zinc cyanide | 1.35 mmol, 0.16 g | [C-]#N.[Zn+2].[C-]#N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl {2-(4-cyanophenyl)-4-[(triisopropylsilyl)oxy]butyl}-methylcarbamate | 41% | C(#N)C1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CCO[Si](C(C)C)(C(C)C)C(C)C | C26H44N2O3Si
